### PR TITLE
[Merged by Bors] - feat(GroupTheory/Commutator/Basic): more commutator identities

### PR DESCRIPTION
**Pull request by SnirBroshi**
From [Wikipedia](https://en.wikipedia.org/wiki/Commutator#Identities_(group_theory))

---
The last two aren't on Wikipedia but they're similar to Hall-Witt.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 1]
```diff
@@ -32,6 +32,14 @@ open scoped commutatorElement
 variable {G G' F : Type*} [Group G] [Group G'] [FunLike F G G'] [MonoidHomClass F G G']
 variable (f : F) {g₁ g₂ g₃ g : G}
 
+theorem conj_eq_commutatorElement_mul : MulAut.conj g₁ g₂ = ⁅g₁, g₂⁆ * g₂ := by
+  simp [commutatorElement_def]
+
+open scoped addCommutatorElement in
+theorem addConj_eq_addCommutatorElement_add {G : Type*} [AddGroup G] {g₁ g₂ : G} :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Commutator/Basic.lean]: Maybe this should wait on #39884?

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 2]
```diff
@@ -80,6 +88,46 @@ theorem commutatorElement_mul_right_eq_mul_conj (a b c : G) :
...
+@[to_additive /-- **The Hall-Witt identity** -/]
+theorem commutatorElement_commutatorElement_conj_mul (a b c : G) :
+    ⁅⁅a, b⁆, b * c * b⁻¹⁆ * ⁅⁅b, c⁆, c * a * c⁻¹⁆ * ⁅⁅c, a⁆, a * b * a⁻¹⁆ = 1 := by
+  simp [mul_assoc, commutatorElement_def]
+
+/-- **The Hall-Witt identity** -/
+@[to_additive /-- **The Hall-Witt identity** -/]
+theorem commutatorElement_conj_commutatorElement_mul (a b c : G) :
+    ⁅a * b * a⁻¹, ⁅c, a⁆⁆ * ⁅c * a * c⁻¹, ⁅b, c⁆⁆ * ⁅b * c * b⁻¹, ⁅a, b⁆⁆ = 1 := by
+  simp [mul_assoc, commutatorElement_def]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Commutator/Basic.lean:117]: Do you have use cases for these? There are a lot of variations, but the main application in my mind is the three subgroups lemma which we already have.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/Commutator/Basic.lean:117]: No, but I do think it's valuable to have named theorems/identities.

Are there variations other than these? (which differ by more than substituting `a ↦ a⁻¹`, or adding a random `⁻¹` somewhere and flipping a commutator)

File: Mathlib/GroupTheory/Commutator/Basic.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Commutator/Basic.lean]: It's merged.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
